US07563816B2
Step D: N-(3,3-Dimethylbutyl)-N-ethyl-2-(3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetamide
Charge a 13×100 mm screw-capped tube with 27.6 mg (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetic acid, 23.0 mg HOBt hydrate, 18.6 mg N-ethyl-3,3-dimethylbutan-1-amine hydrochloride, and 89 μL DIEA. Dissolve the mixture in 1 mL anhydrous DMF. Add 38.3 mg EDC HCl salt and let the mixture sit at room temperature overnight. The title compound was isolated from the reaction mixture using RP-HPLC with 65-100% MeCN gradient with 0.1% TFA. LC-MS: 3.89 min. (m/Z=388.2, 410.1)

reactant | (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetic acid | 27.6 mg | C(C(C)C)(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O | C14H16N2O4
reactant | HOBt hydrate | 23.0 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | N-ethyl-3,3-dimethylbutan-1-amine hydrochloride | 18.6 mg | Cl.C(C)NCCC(C)(C)C
reactant | DIEA | 89 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC HCl | 38.3 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3,3-Dimethylbutyl)-N-ethyl-2-(3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetamide | CC(CCN(C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)C)=O)=O)CC)(C)C | C22H33N3O3
